US04940710
1-Cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-(3-thienyl)-1-piperazinyl]-3-quinolinecarboxylic acid, monohydrochloride
A 200 mg portion of 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-(3-thienyl)-1-piperazinyl]-3-quinolinecarboxylic acid was dissolved in 2 ml of 1N sodium hydroxide, then 10% aqueous hydrochloric acid was added until the pH was 3. The mixture was stirred for 30 minutes, then the solid was collected and dried, giving 170 mg of the desired product.

reactant | 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-(3-thienyl)-1-piperazinyl]-3-quinolinecarboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)C1=CSC=C1)F)=O)C(=O)O | C21H20FN3O3S
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 1N, 2 ml | [OH-].[Na+]
product | 1-Cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-(3-thienyl)-1-piperazinyl]-3-quinolinecarboxylic acid, monohydrochloride | 170 mg | Cl.C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)C1=CSC=C1)F)=O)C(=O)O | InChI=1S/C21H20FN3O3S.ClH/c22-16-7-14-18(25(13-1-2-13)9-15(20(14)26)21(27)28)8-19(16)24-5-4-23-17(10-24)12-3-6-29-11-12;/h3,6-9,11,13,17,23H,1-2,4-5,10H2,(H,27,28);1H
